US06506901B2
Step E: N-(5-{2-[(1-[4-[3-(2,6-Difluoro-benzyl)-3-methyl-ureido]-benzene-sulfonyl)-piperidin-4-ylmethyl)-amino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulfonamide
The title compound was prepared from N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide (0.126 g, 0.51 mmol), 1-(2,6-Difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-1-methyl-urea (0.5 mmol), glacial acetic acid (0.028 g, 0.49 mmol) and sodium cyanoborohydride (0.031 g, 0.49 mmol) according to the general procedure used for example 84 (Step E) to give the final product (0.136 g).

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide | 0.51 mmol, 0.126 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | 1-(2,6-Difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-1-methyl-urea | 0.5 mmol | FC1=C(CN(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)C=O)C)C(=CC=C1)F | C21H23F2N3O4S
reactant | acetic acid | 0.49 mmol, 0.028 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.49 mmol, 0.031 g | C(#N)[BH3-].[Na+]
product | N-(5-{2-[(1-[4-[3-(2,6-Difluoro-benzyl)-3-methyl-ureido]-benzene-sulfonyl)-piperidin-4-ylmethyl)-amino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulfonamide | 0.136 g | FC1=C(CN(C(NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)CNCC(O)C=2C=CC(=C(C2)NS(=O)(=O)C)O)=O)C)C(=CC=C1)F | C30H37F2N5O7S2
